US06734180B1
Using 2-(tert-butoxycarbonylamino)-4-methoxycarbonylindan (45 mg, 0.15 mmol) synthesized in the above Preparation Example 7, 4N hydrochloric acid-dioxane (0.7 ml) and acetic acid (2.1 ml), a similar procedure to Example 24 was carried out to obtain 2-amino-4-methoxycarbonylindan hydrochloride. Then, using the 2-amino-4-methoxycarbonylindan hydrochloride, 4-chloro-5-methylthieno[2,3-d]pyrimidine (28 mg, 0.15 mmol), triethylamine (63 μl, 0.45 mmol), and ethanol (1 ml), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain the title compound (15 mg, 0.044 mmol) having the following physical properties:

reactant | 2-(tert-butoxycarbonylamino)-4-methoxycarbonylindan | 0.15 mmol, 45 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=CC(=C2C1)C(=O)OC | C16H21NO4
reactant | hydrochloric acid dioxane | 4N, 0.7 ml | Cl.O1CCOCC1
solvent | acetic acid | 2.1 ml | C(C)(=O)O | C2H4O2
product | 2-amino-4-methoxycarbonylindan hydrochloride | Cl.NC1CC2=CC=CC(=C2C1)C(=O)OC | InChI=1S/C11H13NO2.ClH/c1-14-11(13)9-4-2-3-7-5-8(12)6-10(7)9;/h2-4,8H,5-6,12H2,1H3;1H
